US06514996B2
(Step A) Ethyl 2-methoxyphenoxyacetate (Compound IIbd-a)
A mixture of 2-methoxyphenol (11.3 g), potassium carbonate (25 g), ethyl bromoacetate (12 ml), and acetone (113 ml) was heated under reflux for 4 hours. After cooling to the room temperature, the mixture was filtered and the solvent was distilled off under reduced pressure from the filtrate. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1) to give Compound IIbd-a (17 g, 91%) as a pale-yellow oily substance.

reactant | 2-methoxyphenol | 11.3 g | COC1=C(C=CC=C1)O | C7H8O2
reactant | potassium carbonate | 25 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 12 ml | BrCC(=O)OCC | C4H7BrO2
solvent | acetone | 113 ml | CC(=O)C | C3H6O
product | Ethyl 2-methoxyphenoxyacetate | COC1=C(OCC(=O)OCC)C=CC=C1 | C11H14O4
